US04322370
A solution of 4-(4-chlorophenyl)-2,2-dimethyl-7-(2-dimethylaminoethoxy)-1-methylidene tetralin hydrochloride (4 g) in ethanol (150 ml) was hydrogenated in the presence of 10% palladium on charcoal (0.4 g) until hydrogen uptake was complete. After filtration the solvent was removed in vacuo to give 4-(4-chlorophenyl)-1,2,2-trimethyl-7-(2-dimethylaminoethoxy)tetralin hydrochloride. Recrystallisation from ethanol-ether gave white prisms, m.p. 173°-6° (3.6 g, 90%).

reactant | 4-(4-chlorophenyl)-2,2-dimethyl-7-(2-dimethylaminoethoxy)-1-methylidene tetralin hydrochloride | 4 g | Cl.ClC1=CC=C(C=C1)C1CC(C(C2=CC(=CC=C12)OCCN(C)C)=C)(C)C
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.4 g | [Pd] | Pd
product | 4-(4-chlorophenyl)-1,2,2-trimethyl-7-(2-dimethylaminoethoxy)tetralin hydrochloride | Cl.ClC1=CC=C(C=C1)C1CC(C(C2=CC(=CC=C12)OCCN(C)C)C)(C)C | InChI=1S/C23H30ClNO.ClH/c1-16-21-14-19(26-13-12-25(4)5)10-11-20(21)22(15-23(16,2)3)17-6-8-18(24)9-7-17;/h6-11,14,16,22H,12-13,15H2,1-5H3;1H
